US08445497B2
4-Fluoro-2-(4-bromophenyl)-5-hydroxy-N-methylbenzofuran-3-carboxamide.
To a mixture of 4-fluoro-2-(4-bromophenyl)-5-hydroxybenzofuran-3-carboxylic acid (0.62 g, 1.77=10, 1 eq), 2M solution of methylamine in THF (5.4 ml, 10.8 mmol, 6.1 eq), HOBT (0.43 g, 3.18 mmol, 1.8 eq), EDCI.HCl (0.61 g, 3.18 mmol, 1.8 eq) in THF at r.t. under an nitrogen atmosphere was added diisopropylethylamine (1.9 ml, 10.9 mmol, 6.2 eq). The clear reaction mixture was stirred at r.t. overnight. The reaction mixture was concentrated and diluted with water, and then the solid precipitate was collected by filtration. The product was washed with petroleum ether and dried under vacuum. Yield: 0.51 g (79.7%). 1H NMR (400 MHz, DMSO-d6) δ 9.67 (s, 1H), 8.63 (t, J=4.4 Hz, 1H), 7.79-7.72 (m, 4H), 7.33 (d, J=8.8 Hz, 1H), 7.02 (m, 1H), 2.81 (d, J=4.4 Hz, 3H).

reactant | 4-fluoro-2-(4-bromophenyl)-5-hydroxybenzofuran-3-carboxylic acid | 0.62 g, 1 eq | FC1=C(C=CC2=C1C(=C(O2)C2=CC=C(C=C2)Br)C(=O)O)O | C15H8BrFO4
reactant | methylamine | CN | CH5N
reactant | HOBT | 3.18 mmol, 0.43 g, 1.8 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 3.18 mmol, 0.61 g, 1.8 eq | CCN=C=NCCCN(C)C.Cl
reactant | diisopropylethylamine | 10.9 mmol, 1.9 ml, 6.2 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10.8 mmol, 5.4 ml, 6.1 eq | C1CCOC1 | C4H8O
product | 4-Fluoro-2-(4-bromophenyl)-5-hydroxy-N-methylbenzofuran-3-carboxamide | FC1=C(C=CC2=C1C(=C(O2)C2=CC=C(C=C2)Br)C(=O)NC)O | C16H11BrFNO3
